US07566712B2
Combine 4,6-dichloro-2-methoxymethyl-pyrimidine (800 mg, 4.14 mmol), 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine (960 mg, 4.14 mmol), sodium bicarbonate (500 mg), and EtOH (50 mL). Reflux for 4 hours, let cool to room temperature, vacuum filter, and evaporate the mother liquor. Purify the residue by column chromatography eluting with 20:1 DCM/MeOH to obtain 4-chloro-2-methoxymethyl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine as a white solid.

reactant | 4,6-dichloro-2-methoxymethyl-pyrimidine | 4.14 mmol, 800 mg | ClC1=NC(=NC(=C1)Cl)COC | C6H6Cl2N2O
reactant | 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine | 4.14 mmol, 960 mg | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | sodium bicarbonate | 500 mg | C([O-])(O)=O.[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | 4-chloro-2-methoxymethyl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | ClC1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)COC | C16H17ClF3N5O
